US08247429B2
N-[2-(5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide
2-(5-Chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine (105 mg, 0.424 mmol) was dissolved in tetrahydrofuran (4 mL), triethylamine (88.6 μL, 0.636 mmol) and acetic anhydride (48.1 μL, 0.509 mmol) were added under ice-cooling, and the mixture was stirred for 10 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (96.7 mg, yield 79%).

reactant | 2-(5-Chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine | 0.424 mmol, 105 mg | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCN | C13H14ClN3
reactant | triethylamine | 0.636 mmol, 88.6 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.509 mmol, 48.1 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide | 96.7 mg, yield 79% | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCNC(C)=O | C15H16ClN3O
